US07834008B2
(1S,2S)-2-[(E)-3-(4-Acetylamino-4-phenyl-piperidin-1-yl)-propenyl]-1-(3,4-dichloro-phenyl)-cyclopropanecarboxylic acid (4-fluoro-benzyl)-methyl-amide
N-(4-Phenyl-piperidin-4-yl)-acetamide (140 mg, 0.64 mmol) dissolved in ethanol (3 ml) is added to (1S,2S)-1-(3,4-Dichloro-phenyl)-2-((E)-3-oxo-propenyl)-cyclopropanecarboxylic acid (4-fluoro-benzyl)-methyl-amide dissolved in ethanol (5 ml) followed by dropwise addition of sodium cyanoborohydride (1.0M in THF, 1.97 ml, 1.97 mmol) at 0° C. After complete addition the mixture is kept at ambient temperature for 2 hours. The reaction is quenched by addition of sodium bicarbonate (3 ml, sat.) and the ethanol is removed by means of evaporation. Ethyl acetate (30 ml) is added to the remanence. The organic fraction is washed successively with sodium bicarbonate (10 ml, sat.) and brine (10 ml, sat.), dried (MgSO4) and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with ethyl acetate:ethanol:triethylamine (95:0:5)-(90:5:5) to furnish the title compound as an oil. Yield 81 mg (27%). LC/MS (m/z) 610.3 (M+H+).

reactant | N-(4-Phenyl-piperidin-4-yl)-acetamide | 0.64 mmol, 140 mg | C1(=CC=CC=C1)C1(CCNCC1)NC(C)=O | C13H18N2O
reactant | (1S,2S)-1-(3,4-Dichloro-phenyl)-2-((E)-3-oxo-propenyl)-cyclopropanecarboxylic acid (4-fluoro-benzyl)-methyl-amide | FC1=CC=C(CN(C(=O)[C@@]2([C@@H](C2)\C=C\C=O)C2=CC(=C(C=C2)Cl)Cl)C)C=C1 | C21H18Cl2FNO2
reactant | sodium cyanoborohydride | 1.97 mmol, 1.0M, 1.97 ml | C(#N)[BH3-].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (1S,2S)-2-[(E)-3-(4-Acetylamino-4-phenyl-piperidin-1-yl)-propenyl]-1-(3,4-dichloro-phenyl)-cyclopropanecarboxylic acid (4-fluoro-benzyl)-methyl-amide | FC1=CC=C(CN(C(=O)[C@@]2([C@@H](C2)\C=C\CN2CCC(CC2)(C2=CC=CC=C2)NC(C)=O)C2=CC(=C(C=C2)Cl)Cl)C)C=C1 | C34H36Cl2FN3O2
